US07691850B2
a) (±)-phenylmethyl 3-cyano-3-hydroxy-1-pyrrolidinecarboxylate
To a stirred solution of phenylmethyl 3-oxo-1-pyrrolidinecarboxylate (1.0 g, 4.56 mmole) and KCN (0.81 g, 12.54 mmole) in THF (5 mL) and H2O (15 mL) at 0° C. was added NaHSO3 (1.14 g, 10.9 mmole) in H2O (5.0 mL). After 3 h, the reaction contents were concentrated in vacuo, extracted with CHCl3 (2×100 mL), and the organics dried over Na2SO4. Purification on silica (hexanes/EtOAc, 1:1) afforded the title compound (0.92 g, 82%) as a light yellow oil: LC-MS (ES) m/e 247 (M+H)+.

reactant | phenylmethyl 3-oxo-1-pyrrolidinecarboxylate | 4.56 mmole, 1.0 g | O=C1CN(CC1)C(=O)OCC1=CC=CC=C1 | C12H13NO3
reactant | KCN | 12.54 mmole, 0.81 g | [C-]#N.[K+]
reactant | NaHSO3 | 10.9 mmole, 1.14 g | OS(=O)[O-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | H2O | 15 mL | O | H2O
solvent | H2O | 5.0 mL | O | H2O
product | (±)-phenylmethyl 3-cyano-3-hydroxy-1-pyrrolidinecarboxylate | 0.92 g, 82% | C(#N)C1(CN(CC1)C(=O)OCC1=CC=CC=C1)O | C13H14N2O3
